US05489593
5-Fluoroindole-2-carbonyl chloride (I)
5-Fluorindole-2-carboxylic acid is dissolved in oxalylchloride and stirred 24 hr at 20°-25° in the dark. The reaction mixture is concentrated under reduced pressure to give the title compound.

reactant | 5-Fluorindole-2-carboxylic acid | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | oxalylchloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 5-Fluoroindole-2-carbonyl chloride | FC=1C=C2C=C(NC2=CC1)C(=O)Cl | C9H5ClFNO
